US07244843B2
Preparation of (R)-1,3,4,10b-tetrahydro-7-chloro-9-hydroxy-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid
Prepared according to procedures described in Example 128 Step A with substitution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-7-chloro-9-methoxy-pyrazino[2,1-a]isoindol-6(2H)-one, produced by procedures described in example 126 eith the substitution of N,N-diethyl-4-bromo-2-chlorobenzamide for N,N-diethyl-4-bromo-2-trifluoromethoxybenzamide, for N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-methoxy-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one. Followed by the separation of enantiomers according to the procedures described in Example 128 Step D. MS (ESI) 239 (M−Cl).

reactant | N,N-diethyl-4-bromo-2-chlorobenzamide | C(C)N(C(C1=C(C=C(C=C1)Br)Cl)=O)CC | C11H13BrClNO
reactant | N,N-diethyl-4-bromo-2-trifluoromethoxybenzamide | C(C)N(C(C1=C(C=C(C=C1)Br)OC(F)(F)F)=O)CC | C12H13BrF3NO2
reactant | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-methoxy-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one | C(C)(C)(C)OC(=O)N1CC2N(C(C3=C(C=C(C=C23)OC)OC(F)(F)F)=O)CC1 | C18H21F3N2O5
product | (R)-1,3,4,10b-tetrahydro-7-chloro-9-hydroxy-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid | Cl.ClC1=C2C(N3[C@H](C2=CC(=C1)O)CNCC3)=O | InChI=1S/C11H11ClN2O2.ClH/c12-8-4-6(15)3-7-9-5-13-1-2-14(9)11(16)10(7)8;/h3-4,9,13,15H,1-2,5H2;1H/t9-;/m0./s1
